US08030499B2
Step 7-2-2: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-1,3-dihydro-2H-indol-2-one
Under nitrogen atmosphere, to a solution of 5.00 g of 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one, which is the compound described in Preparation 1.1A of brochure Publication No. WO01/5513,0 in DMF (50 ml) was added 760 mg of NaH under ice cooling, then, the reaction mixture was warmed to room temperature and stirred for 30 minutes. To the stirred solution, under cooling at −20° C., was added dropwise a solution of 5.52 g of 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride in DMF (10 ml) over 3 minutes, then, the solution was stirred at the same temperature for 5 hours. After warming to 0° C., to the reaction solution was added CHCl3 and an aqueous solution of 5% K2CO3, and the solution was stirred at room temperature for 30 minutes. The liquid separation of the stirred solution was performed, then the aqueous layer was extracted with CHCl3, the combined organic layer was washed with saturated brine, dried over MgSO4, then, the drying agent was separated by filtration, and was solvent under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/n-hexane=1/1; v/v) to obtain 4.55 g of the title compound (orange color solid).

reactant | 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one | 5.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)OC)O | C15H12ClNO3
reactant | NaH | 760 mg | [H-].[Na+]
reactant | 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride | 5.52 g | COC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C8H6ClF3O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-1,3-dihydro-2H-indol-2-one | 4.55 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC(F)(F)F)=O)(C1=C(C=CC=C1)OC)O | C23H17ClF3NO7S
